US08975254B2
a) (S)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile
2-chloro-6-fluoro-4-(1H-pyrazol-3-yl)benzonitrile (5.0 g, 22.56 mmol), N-t-BOC-(R)-1-amino-2-propanol (7.91 g, 45.1 mmol) and triphenylphosphine (11.84 g, 45.1 mmol) were dissolved in dry ethyl acetate under nitrogen atmosphere and stirred. DIAD (9.12 g, 45.1 mmol) was added dropwise and the reaction flask was cooled by ice bath. The reaction was stirred at RT overnight. Water and concentrated HCl (18.53 ml, 226 mmol) were added to the reaction mixture and the reaction was stirred at RT overnight. Water and DCM were added to the reaction mixture, stirred and water phase was separated. Organic phase was extracted twice with water and water phases were combined. The combined water phase was washed twice with DCM and pH of water was adjusted to ˜12 by addition of NaOH. Water phase was extracted twice with DCM and combined DCM phase was washed twice with water. Organic phase was evaporated to dryness and the product was purified by Flash-chromatography. Yield 31.8%. 1H-NMR (400 MHz; DMSO): δ 1.42 (d, 3H), 2.80-3.00 (m, 2H), 4.27-4.38 (m, 1H), 7.03 (d, 1H), 7.84-7.95 (m, 2H), 8.00 (m, 1H).

reactant | 2-chloro-6-fluoro-4-(1H-pyrazol-3-yl)benzonitrile | 22.56 mmol, 5.0 g | ClC1=C(C#N)C(=CC(=C1)C1=NNC=C1)F | C10H5ClFN3
reactant | triphenylphosphine | 45.1 mmol, 11.84 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 45.1 mmol, 9.12 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | HCl | 226 mmol, 18.53 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | (S)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile | Yield 31.8% | NC[C@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)Cl | C13H12ClFN4
